US06677352B1
7-anilino-4-methyl-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridine-2-carboxylic acid (50 mg, 0.14 mmol), N,O-dimethylhydroxylamine hydrochloride (39 mg, 0.40 mmol), HOBT (28 mg, 0.21 mmol), EDCI (40 mg, 0.21 mmol) were dissolved in CH2Cl2 (3 mL). To this solution was added TEA (78 uL, 0.56 mmol). The reaction was stirred for 1 h and was diluted with CH2Cl2, washed with 0.5N HCl, saturated NaHCO3, and brine. The organic layer was collected, dried over Na2SO4, and concentrated in vacuo. The solid obtained was triturated with Et2O and dried to give 7-anilino-N-methoxy-N,4-dimethyl-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridine-2-carboxamide as a light yellow solid (34 mg, 59%): LCMS RT: 2.28 min, MH+: 415.2. This transformation can also be accomplished by coupling the appropriate amine with the corresponding acid chloride.

reactant | 7-anilino-4-methyl-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridine-2-carboxylic acid | 0.14 mmol, 50 mg | N(C1=CC=CC=C1)C1=CC(C=2C(=CC(=NC2N1C1=CC=CC=C1)C(=O)O)C)=O | C22H17N3O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.40 mmol, 39 mg | Cl.CNOC
reactant | HOBT | 0.21 mmol, 28 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.21 mmol, 40 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 7-anilino-N-methoxy-N,4-dimethyl-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridine-2-carboxamide | 34 mg, 59% | N(C1=CC=CC=C1)C1=CC(C=2C(=CC(=NC2N1C1=CC=CC=C1)C(=O)N(C)OC)C)=O | C24H22N4O3
